US08258130B2
A suspension of NaH (805 mg, 20.1 mmol, 60% in mineral oil) in DMF (5 mL) at 0° C. is treated with 7-fluoro-3-methylindole (200 mg, 1.34 mmol) and stirred at 0° C. for 1 h. The mixture is treated with HOSA (757 mg, 6.7 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, and extracted with EtOAc (3×100 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo to afford 7-fluoro-3-methyl-indol-1-ylamine, which is used in the next step without further purification.

reactant | NaH | 20.1 mmol, 805 mg | [H-].[Na+]
reactant | 7-fluoro-3-methylindole | 1.34 mmol, 200 mg | FC=1C=CC=C2C(=CNC12)C | C9H8FN
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-fluoro-3-methyl-indol-1-ylamine | FC=1C=CC=C2C(=CN(C12)N)C | C9H9FN2
